US08975254B2
(R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-morpholinothiazole-4-carboxamide was prepared using the method of Example 34(d) starting from 2-morpholino-1,3-thiazole-4-carboxylic acid (0.229 g, 1.070 mmol) and (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.25 g, 0.892 mmol). The product was purified by Flash-chromatography and triturated using diethyl ether. Yield 4.91%. 1H-NMR (400 MHz; DMSO-d6): δ 1.23 (d, 3H), 3.38-342 (m, 4H), 3.67-3.71 (m, 4H), 4.28-4.45 (m, 3H), 6.95 (d, 1H), 7.39 (s, 1H), 7.83 (d, 1H), 7.92 (dd, 1H), 7.96 (d, 1H), 7.98 (dd, 1H), 8.06 (d, 1H).

reactant | 2-morpholino-1,3-thiazole-4-carboxylic acid | 1.070 mmol, 0.229 g | O1CCN(CC1)C=1SC=C(N1)C(=O)O | C8H10N2O3S
reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.892 mmol, 0.25 g | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-morpholinothiazole-4-carboxamide | Yield 4.91% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](C)NC(=O)C=1N=C(SC1)N1CCOCC1 | C21H21ClN6O2S
